* C:\Users\IlhanK\Desktop\FP\LTSpice\CurrMeas.asc
XU1 NC_01 N003 IN+ IN- 5v 0 OUT+ OUT- P001 5v ADA4940
V1 5v 0 5
R4 OUT- IN+ 2k tol=0.1
C2 OUT- IN+ 22p
R5 OUT+ IN- 2k tol=0.1
C3 OUT+ IN- 22p
C1 0 P001 1µ
R6 IN+ TP4 1k tol=0.1
R7 IN- TP2 1k tol=0.1
C6 TP2 0 2n2
R1 N001 OUT- 49.9
R2 N002 OUT+ 49.9
C4 5v TP4 2n2
R3 TP2 Vref 27
R11 TP4 Vout 51
C5 0 TP4 82p
C7 5v 0 0.1µ
C8 5v 0 100p
V2 Vref 0 2.4943
V3 Vout 0 {Vout}
.tran 1s
;ac dec 100 1 100k
.step param Vout list 2.2421 2.2671 2.2921    2.3171 2.3421 2.3671 2.3921 2.4171 2.4421 2.4671 2.4921 2.5171 2.5421 2.5671 2.5921 2.6171 2.6421 2.6671 2.6921 2.7171 2.7421
.lib ADA4940.lib
.backanno
.end
